US04243672
DL-2-(5-Cyclopropylmethyl-2-pyrrolyl)glycine
Glyoxylic acid hydrate (8.3 g., 0.09 mole) was dissolved in 0.880 sp. gr. ammonia solution (50 ml.) and the solution heated to 50°-60°. 2-Cyclopropylmethyl pyrrole (10.9 g., 0.09 mole) was added dropwise and the resulting mixture stirred at 50°-60° for 2 hours. Diethyl ether (50 ml.) was added to the cool reaction mixture. Filtration gave a solid which was washed with diethyl ether (50 ml.). The filtrate was shaken and the aqueous phase separated and combined with the filtered solid to give a slurry whose pH was adjusted to ca. 5 with concentrated hydrochloric acid. The mixture was filtered and the resulting solid thoroughly washed with water, acetone, and with diethyl ether, affording, after drying in vacuo, DL-2-(5-cyclopropylmethyl-2-pyrrolyl)glycine (9.65 g., 55%), M.P. 203°-205° (decomp.).

reactant | Glyoxylic acid hydrate | 0.09 mole, 8.3 g | O.C(C=O)(=O)O
reactant | ammonia | 50 ml | N | H3N
reactant | 2-Cyclopropylmethyl pyrrole | 0.09 mole, 10.9 g | C1(CC1)CC=1NC=CC1 | C8H11N
reactant | hydrochloric acid | Cl | ClH
solvent | Diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(5-Cyclopropylmethyl-2-pyrrolyl)glycine | C1(CC1)CC1=CC=C(N1)C(N)C(=O)O | C10H14N2O2
